US03975443
Sodium hydride (0.8 g., 50% dispersion in oil) was added to a solution of 1-dimethylaminocyclohexane carboxamide (2 g.) in dimethylformamide (40 ml.) and the mixture stirred for 2 hrs. A solution of 3,4-dichlorobenzyl chloride (2.4 g.) in dimethylformamide (10 ml.) was added dropwise and the resulting mixture stirred overnight. The mixture was filtered and the filtrate evaporated to dryness. Petrol (80/100 ) was added, the mixture boiled, and the solid filtered off. The filtrate was decolourised with activated charcoal and evaporated to dryness to leave a colourless oil. The oil was dissolved in 2N hydrochloric acid and washed with benzene (4 × 200 ml.). The aqueous phase was basified (2N NaOH) and extracted with benzene (4 × 200 ml.). The benzene extracts were washed with water, (4 × 200 ml.) dried (Na2SO4) and evaporated to leave a colourless oil (2.1 g.), shown by T.L.C. (silica/ether) to consist of three components. The oil was dissolved in the minimum of ether and chromatographed on a column of silica (50 × 2.0 cms.) eluting with ether (11 × 100 ml. fractions). Fractions 3 - 11 were combined, evaporated to dryness and rechromatographed as above. Combination and evaporation of the appropriate fractions afforded a white crystalline solid (1.315 g., 35%). Recrystallisation from 40/60 petrol afforded 1-dimethylamino-N-[3,4-dichlorotolyl]-cyclohexane carboxamide as white needles (0.846 g.) m.p. 82°-83°c. A second crop (0.091g.) melted at 78°-83°C.

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | 1-dimethylaminocyclohexane carboxamide | 2 g | CN(C1(CCCCC1)C(=O)N)C | C9H18N2O
reactant | 3,4-dichlorobenzyl chloride | 2.4 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 2N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-dimethylamino-N-[3,4-dichlorotolyl]-cyclohexane carboxamide | CN(C1(CCCCC1)C(=O)NC1=C(C=CC(=C1Cl)Cl)C)C | C16H22Cl2N2O
